US07271262B2
240A. (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(4′-dimethylamino-biphenyl-3-yl)methanone
A solution of (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-iodo-phenyl)-methanone (100 mg, 0.22 mmol), 4-(dimethylamino)Phenyl boronic acid (42.9 mg, 0.26 mmol), PdCl2(PPh3)2 (7.7 mg, 0.011 mmol), and K2CO3 (45.6 mg, 0.33 mmol) in 1,4-dioxane (3 mL) and water (0.5 mL) was heated to 90° C. After 24 h the reaction was diluted with EtOAc and filtered through celite. The filtrate was washed with water, dried over Na2SO4, and concentrated. Purification by flash column chromatography (hexanes/ethyl acetate 8:2) afforded the title compound as a white solid (46 mg, 47%). MS: 445.1/447.1 (MH+); HPLC Rf: 8.05 min. (HPLC method 4).

reactant | (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-iodo-phenyl)-methanone | 0.22 mmol, 100 mg | ClC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)I)C2CCCC2 | C18H15ClIN3O
reactant | 4-(dimethylamino)Phenyl boronic acid | 0.26 mmol, 42.9 mg | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
reactant | K2CO3 | 0.33 mmol, 45.6 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.011 mmol, 7.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(4′-dimethylamino-biphenyl-3-yl)methanone | 46 mg, 47% | ClC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=C(C=CC2)C2=CC=C(C=C2)N(C)C)C2CCCC2 | C26H25ClN4O
